US06133253
An alternative to the procedures of Examples 1b-1c, (R)-1-t-butyloxycarbonyl-2-azetidinemethanol was prepared from γ-butyrolactone according to the procedure of Rodebaugh, R. M. and Cromwell, N. H., (J. Heterocyclic Chem., 1969, 435). In this literature procedure, γ-butyrolactone was treated with bromine and catalytic phosphorus tribromide, then subsequently with benzyl alcohol and gaseous hydrogen chloride to afford benzyl α,γ-dibromobutyrate in 62% yield. This dibromide in ethanol was treated with one equivalent of benzhydrylamine and potassium carbonate at reflux for about 16 hours to afford benzyl N-diphenylmethylazetidine-2-carboxylate in 52% yield. Hydrogenolysis in MeOH over Pd(OH)2 afforded racemic azetidine-2-carboxylic acid in 62% yield. Following the procedure of Rodebaugh, R. M. and Cromwell, N. H., (J. Heterocyclic Chem., 1969, 993), racemic azetidine-2-carboxylic acid was converted to the N-Cbz derivative by treatment with benzyl chloroformate in aqueous NaOH at 0-5° C. Following isolation in quantitative yield, the Cbz derivative in methanol was treated with one equivalent of L-tyrosine hydrazide to precipitate the tyrosine hydrazide salt of (R)-azetidine-2-carboxylic acid in 77-87% yield. (R)-1-Cbz-azetidine-2-carboxylic acid was liberated from the salt by normal extractive procedures. Hydrogenolysis of the free acid by treatment of a methanol solution with hydrogen gas at 4 atm in the presence of 10% Pd/C for 19 h afforded (R)-azetidine-2-carboxylic acid, which was isolated in 88% yield by trituration with methanol. This product was treated with di-tert -butyl dicarbonate and N-methylmorpholine in dioxane/H2O (1:1) to afford (R)-1-Boc-azetidine-2-carboxylic acid in quantitative yield. Treatment of a THF solution of (R)-1-Boc-azetidine-2-carboxylic acid with borane-methyl sulfide complex for 16 h at ambient temperature afforded the title compound in 92% yield.

reactant | methanol | CO | CH4O
reactant | di-tert -butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | dioxane H2O | O1CCOCC1.O
product | (R)-1-Boc-azetidine-2-carboxylic acid | quantitative yield | C(=O)(OC(C)(C)C)N1[C@H](CC1)C(=O)O | C9H15NO4
